US08293735B2
(±)-4-Azetidin-1-yl-piperidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester
To a solution of 4-oxo-piperidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester (100 mg, 0.389 mmol) in DCE (11 mL) was added azetidine (33 mg, 0.578 mmol). The mixture was stirred at RT for 10 min, then sodium triacetoxyborohydride (132 mg, 0.623 mmol) was added and stirring was continued for 2 h. Water was added to the reaction mixture before being loaded onto an Isolute® SCX-2 cartridge. The cartridge was washed with MeOH then eluted with 2 M NH3 in MeOH to give the title compound as a colourless oil (102 mg, 88%).

reactant | 4-oxo-piperidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester | 0.389 mmol, 100 mg | COC(=O)C1CN(CCC1=O)C(=O)OC(C)(C)C | C12H19NO5
reactant | azetidine | 0.578 mmol, 33 mg | N1CCC1 | C3H7N
reactant | sodium triacetoxyborohydride | 0.623 mmol, 132 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | Water | O | H2O
solvent | DCE | 11 mL | ClCCCl | C2H4Cl2
product | (±)-4-Azetidin-1-yl-piperidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester | 102 mg, 88% | COC(=O)C1CN(CCC1N1CCC1)C(=O)OC(C)(C)C | C15H26N2O4
